* PSRRn (sky130)


.option scale=1.0u
.param mc_mm_switch=0
.param mc_pr_switch=0
.include '../../../../models/pdk/sky130_fd_pr/models/parameters/lod.spice'
.include '../../../../models/pdk/sky130_fd_pr/cells/nfet_01v8/sky130_fd_pr__nfet_01v8__mismatch.corner.spice'
.include '../../../../models/pdk/sky130_fd_pr/cells/pfet_01v8/sky130_fd_pr__pfet_01v8__mismatch.corner.spice'
.include '../../../../models/pdk/sky130_fd_pr/cells/nfet_01v8/sky130_fd_pr__nfet_01v8__tt.pm3.spice'
.include '../../../../models/pdk/sky130_fd_pr/cells/pfet_01v8/sky130_fd_pr__pfet_01v8__tt.pm3.spice'

.include params.sp
.include dut.sp
.param VDD=1.8
.param VCM=0.9
VDD vdda 0 DC {VDD} AC 0
VSS gnda 0 DC 0 AC 1
VINP vinp 0 DC {VCM} AC 0
* unity DC FB
Lfb vout vinn 1k
Ciso vinn vinp 1
Rbig vinn 0 1G
CL vout 0 {CLOAD}
Xdut gnda vdda vinn vinp vout fan_smc_pin_3
.control
set noaskquit
set filetype=ascii
ac dec 40 1 100Meg
let psrr = db(v(vout))
wrdata ../figures/psrrn.dat psrr
let psrrdc = psrr[0]
print psrrdc > ../sim/psrrn_dc.txt
quit
.endc
.end
